US09403809B2
N-[(1Z)-1-amino-1-(hydroxyimino)-2-methylpropan-2-yl]-5-methyl-1,3,4-oxadiazole-2-carboxamide (IVa) (198 gms) was suspended in methanol (1188 ml) and cooled to 15 to 25° C. Dimethyl acetylenedicarboxylate (DMAD; 152.8 gms) was added and the reaction mass was stirred for 2 to 3 hours at 25° C. The reaction mass was concentrated under reduced pressure and xylene was added and stirred between 135° C. and 125° C. for 6 hour. After completion of reaction, the mixture was cooled to 60° C. and methanol (170 ml) & methyl tert-butyl ether (MTBE) were added to the reaction mass and stirred for 1 hour. The resultant slurry was filtered and washed with a 9:1 mixture of methanol & methyl tert-butyl ether (MTBE) and dried to give methyl 2-(2-(5-methyl-1,3,4-oxadiazole-2-carboxamido)propan-2-yl)-1,6-dihydro-5-hydroxy-6-oxopyrimidine-4-carboxylate (Va).

reactant | N-[(1Z)-1-amino-1-(hydroxyimino)-2-methylpropan-2-yl]-5-methyl-1,3,4-oxadiazole-2-carboxamide | 198 gms | N\C(\C(C)(C)NC(=O)C=1OC(=NN1)C)=N/O | C8H13N5O3
reactant | Dimethyl acetylenedicarboxylate | 152.8 gms | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
solvent | methanol | 1188 ml | CO | CH4O
solvent | methanol | 170 ml | CO | CH4O
product | methyl 2-(2-(5-methyl-1,3,4-oxadiazole-2-carboxamido)propan-2-yl)-1,6-dihydro-5-hydroxy-6-oxopyrimidine-4-carboxylate | CC1=NN=C(O1)C(=O)NC(C)(C)C=1NC(C(=C(N1)C(=O)OC)O)=O | C13H15N5O6
